* PSpice Model Editor - Version 16.3.0
*$
.SUBCKT FDB86102LZ 2 1 3
******************************************************************
**      Fairchild Discrete Modeling Group                       **
******************************************************************
**      Website         www.fairchildsemi.com\models            **
******************************************************************
**      (C) Copyright 2009 Fairchild Semiconductor Corporation  **
**                      All rights reserved                     **
**                                                              **
**                      FDB86102LZ Spice model                  **
**                      Revision RevA, 12 April 2011            **
******************************************************************		
*Nom Temp 25 deg C		
Dbody 7 5 DbodyMOD 		
Dbreak 5 11 DbreakMOD 		
Lgate 1 9 5.452e-9		
Ldrain 2 5 0.1e-9		
Lsource 3 7 3.015e-9		
RLgate 1 9 54.52		
RLdrain 2 5 1		
RLsource 3 7 30.15		
Rgate 9 6 0.37		
* Shielded  Gate  		
D_D1 100 5 D_SG_cap1		
D_D2 100 101 D_SG_cap2		
R_R1 101 7 0.29		
C_C1 6 101 39e-12		
.MODEL D_SG_cap1 D (IS=1e-9 n=1 RS=5e-3 CJO=1.3e-9 M=0.6 t_abs=25)
.MODEL D_SG_cap2 D (IS=1e-9 n=1 RS=5e-3 CJO=1.1e-9 M=0.6 t_abs=25)  		
It 7 17 1		
Ebreak 11 7 17 7 109.4		
Rbreak 17 7 RbreakMOD 1 		
.MODEL RbreakMOD RES (TC1=0.68e-3 TC2=-0.6e-6)		
.MODEL DbodyMOD D (IS=4e-12 n=1 RS=4.9e-3 TRS1=2.5e-3 TRS2=1e-6 		
+ CJO=0.26e-9 M=0.40 TT=3e-9 XTI=1)	;0.78	
.MODEL DbreakMOD D (RS=8e-3 TRS1=1e-3 TRS2=2e-6 )		
Rsource 7a 7 0.256e-3		
Rdrain 5 16 RdrainMOD 15.2e-3		
.MODEL RdrainMOD RES (TC1=6.2e-3 TC2=18e-6)		
M_BSIM3 16 6 7a 7a Bsim3 W=1.68 L=1.226e-6 NRS=0 NRD=0		
.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0		
*Process Parameters		
+ TOX=550e-10 ;Oxide thickness		
+ XJ=0.62e-6 ;Channel depth		
+ NCH=1.0e17 ;Channel concentration		
*Channel Current		
+ U0=950 VSAT=500000 DROUT=1.8		
+ DELTA=0.3 PSCBE2=0 RSH=0.256e-3		
*Threshold voltage		
+ VTH0=1.75		
*Sub-threshold characteristics		
+ VOFF=-0.21 NFACTOR=1		
*Junction diodes and Capacitance		
+ LINT=0.141e-6 DLC=0.141e-6 		
+ CGSO=88e-12 CGSL=0 CGDO=1e-12 CGDL=165e-12 ;110		
+ CJ=0 CF=0 CKAPPA=0.25		
* Temperature parameters 		
+ KT1=-1.03 KT2=0 UA1=4e-9		
+ NJ=10)		
.ENDS   		
* 		
*$
