* PSpice Model Editor - Version 16.0.0
*$
.SUBCKT FDB047N10 2 1 3
*Nom Temp 25 deg C
Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Lgate 1 9 5.954e-9
Ldrain 2 5 1.44e-9 
Lsource 3 7 2.196e-9
RLgate 1 9 59.54
RLdrain 2 5 14.4
RLsource 3 7 21.96
Rgate 9 6 0.75
It 7 17 1
Ebreak 11 7 17 7 110
Rbreak 17 7 RbreakMOD 1
.MODEL RbreakMOD RES (TC1=1e-3 TC2=-1.5e-6)
.MODEL DbodyMOD D (IS=9.2e-12 n=1 RS=1e-3 TRS1=2.1e-3 TRS2=1e-6
+ CJO=5.01e-9 M=0.6 TT=32.8e-9 XTI=2)
.MODEL DbreakMOD D (RS=30e-3 TRS1=1e-3 TRS2=1e-6)
Rsource 7a 7 0.563e-3
Rdrain 5 16 RdrainMOD 2.42e-3 
.MODEL RdrainMOD RES (TC1=6.9e-3 TC2=45e-6)
M_BSIM3 16 6 7a 7a Bsim3 W=25.33 L=1.55e-6 NRS=1 NRD=0
.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 paramchk=1 NQSMOD=0
*Process Parameters
+ TOX=1060e-10 ;Oxide thickness
+ XJ=1e-6 ;Channel depth
+ NCH=1.4e17 ;Channel concentration
*Channel Current
+ U0=700 VSAT=5e5 DROUT=1.1
+ DELTA=0.1 PSCBE2=0.00001 RSH=0.563e-3
*Threshold voltage
+ VTH0=3.6
*Sub-threshold characteristics
+ VOFF=-0.1 NFACTOR=1
*Junction diodes and Capacitance
+ LINT=0.4e-6 DLC=0.4e-6
+ CGSO=88e-12 CGSL=102e-12 CGDO=4e-12 CGDL=86e-12
+ CJ=0 CF=0 CKAPPA=2.5
* Temperature parameters
+ KT1=-2.3 KT2=0 UA1=6.5e-9
+ NJ=10)
.ENDS 
*FDB047N10(Rev.A1) 11/21/2008
*ST
*$
